US04080193
32.5 g of potassium hydroxide flakes in 30 ml of water were added to 54.5 g (0.5 mole) of 4-aminophenol dissolved in 350 ml of dimethylsulfoxide, and 150 ml of a water/dimethylsulfoxide mixture were distilled off in vacuo at 15-20 mm Hg. 125 g (0.5 mole) of 1-trifluoromethyl-3,4,5-trichlorobenzene [nD20 : 1.5008 67- 68% of theory, compare J. Am. Chem. Soc. 57, 2066-2068 (1935) and U.S. Pat. No. 2,654,789] were then added to the reaction mixture at about 70°-80° C and the mixture was stirred for a further 2 hours at 120°-130° C. The substance was precipitated with water, filtered off, washed with water and recrystallized moist from an ethanol/water mixture, thus giving 40-50% of theory of 4-(2,6-dichloro-4-trifluoromethylphenoxy)-aniline of melting point 128°-130° C.

reactant | potassium hydroxide | 32.5 g | [OH-].[K+]
reactant | 4-aminophenol | 0.5 mole, 54.5 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 1-trifluoromethyl-3,4,5-trichlorobenzene | 0.5 mole, 125 g | FC(C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C7H2Cl3F3
solvent | water | 30 ml | O | H2O
solvent | dimethylsulfoxide | 350 ml | CS(=O)C | C2H6OS
product | 4-(2,6-dichloro-4-trifluoromethylphenoxy)-aniline | ClC1=C(OC2=CC=C(N)C=C2)C(=CC(=C1)C(F)(F)F)Cl | C13H8Cl2F3NO
